US06310056B1
In the same manner as in Example 4-a) except that 98 mg of 4-nitrobenzyl (5R,6S)-2-(7-chloroimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate and a mixed solvent of dichloromethane and DMF (1:1), the crude 4-nitrobenzyl (5R,6S)-2-(7-chloro-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate iodide was obtained as a yellowish brown oil in a yield of 99 mg.

reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 4-nitrobenzyl (5R,6S)-2-(7-chloro-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate iodide | [I-].ClC=1N(C=[N+]2C1SC(=C2)C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-nitrobenzyl (5R,6S)-2-(7-chloroimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 98 mg | ClC=1N=CN2C1SC(=C2)C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C21H17ClN4O6S
